US07491713B2
Step A: 4-Oxo-4-phenyl-2-[(trifluoroacetyl)amino]butanoic acid
A solution of 3-[(trifluoroacetyl)amino]succinic anhydride (4.00 g, 19.0 mmol) and aluminum chloride (5.56 g, 41.7 mmol) in benzene (80 mL) was refluxed for 5 h, then cooled in an ice bath and quenched by the slow addition of water. The reaction mixture was worked up with ethyl acetate and 10% hydrochloric acid. The residue was purified by chromatography (silica gel, 100% methylene chloride to 90/10/1/1 methylene chloride/methanol/acetic acid/water gradient elution). Recrystallization of the resulting oil from methylene chloride/hexanes produced the title compound as a white solid (3.00 g). 1H NMR (500 MHz, (d6-acetone) □ 11.56 (bs, 1H), 8.63 (bs, 1H), 8.06 (dd, J=8.3, 1.2 Hz, 2H), 7.70-7.67 (m, 1H), 7.57 (t, J=7.7 Hz, 2H), 5.14-5.10 (m, 1H), 3.84 (dd, J=18.3, 6.8 Hz, 1H), 3.77 (dd, J=18.1, 4.6 Hz, 1H).

reactant | 3-[(trifluoroacetyl)amino]succinic anhydride | 19.0 mmol, 4.00 g | FC(C(=O)NC1CC(=O)OC1=O)(F)F | C6H4F3NO4
reactant | aluminum chloride | 41.7 mmol, 5.56 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | benzene | 80 mL | C1=CC=CC=C1 | C6H6
product | 4-Oxo-4-phenyl-2-[(trifluoroacetyl)amino]butanoic acid | 3.00 g | O=C(CC(C(=O)O)NC(C(F)(F)F)=O)C1=CC=CC=C1 | C12H10F3NO4
